data/oMe_Silver.jsonl
{"reaction_id": "NR-001_1-c1cnccc1_2-CN(C)c1ccccc1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1cnccc1)(CN(C)c1ccccc1)C=O","C(c1cnccc1)(CN(C)c1ccccc1)C=O"],"products_smiles": ["C(c1cnccc1)(CN(C)c1ccccc1)C(O)C(c1cnccc1)(CN(C)c1ccccc1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(CN(C)c1ccccc1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccc1)(CN(C)c1ccccc1)C([O-])C(c1cnccc1)(CN(C)c1ccccc1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(CN(C)c1ccccc1)C(O)C(c1cnccc1)(CN(C)c1ccccc1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-103_1-Cl_2-C(=O)N(C)C_3-S(=O)(=O)C_4-N(C)S(=O)(=O)C_5-C(F)(F)F","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(Cl)c(C(=O)N(C)C)c(S(=O)(=O)C)c(N(C)S(=O)(=O)C)c1C(F)(F)F","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(Cl)c(C(=O)N(C)C)c(S(=O)(=O)C)c(N(C)S(=O)(=O)C)c1C(F)(F)F"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(Cl)c(C(=O)N(C)C)c(S(=O)(=O)C)c(N(C)S(=O)(=O)C)c1C(F)(F)F","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(Cl)c(C(=O)N(C)C)c(S(=O)(=O)C)c(N(C)S(=O)(=O)C)c1C(F)(F)F","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
